US07687524B2
Step 6: Preparation of N2-((1S)-1-{4′-[1-(aminocarbonyl)cyclopropyl]biphenyl-4-yl}-2,2-difluoroethyl)-N1-(1-cyanocyclopropyl)-4-fluoro-L-leucinamide.
N2-[(1S)-1-(4-bromophenyl)-2,2-difluoroethyl]-N1-(1-cyanocyclopropyl)-4-fluoro-L-leucinamide (11.2 g, 25.9 mmol), 1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]cyclopropanecarboxamide (8.2 g, 28.5 mmol, 1:1 equiv) and 2M sodium carbonate solution (35.4 mL, 70.8 mmol, 2.7 equiv) were mixed in 225 mL N,N-dimethylformamide. The mixture was degassed 3 times with nitrogen, then [1,1′-bis(diphenylphosphino)ferrocene]palladium (II) chloride, 1:1 complex with dichloromethane (838 mg, 1.15 mmol, 0.044 equiv) was added and mixture degassed again 3 times with nitrogen, heated at 80° C. for 6 hours. The reaction mixture was poured into H2O (900 mL), extracted with ethyl acetate (2×250 mL) and dichloromethane (250 mL). Combined organic fractions were washed with brine, dried over sodium sulphate and evaporated. The residue was purified by flash chromatography, eluting first with 1:1 ethyl acetate/hexane, then with 9:1 ethyl acetate/dichloromethane. The light pink recovered solid was stirred in 150 mL of 1:1 ethyl acetate/dichloromethane for 2 hours and filtered to yield the title compound.

reactant | N2-[(1S)-1-(4-bromophenyl)-2,2-difluoroethyl]-N1-(1-cyanocyclopropyl)-4-fluoro-L-leucinamide | 25.9 mmol, 11.2 g | BrC1=CC=C(C=C1)[C@@H](C(F)F)N[C@@H](CC(C)(C)F)C(=O)NC1(CC1)C#N | C18H21BrF3N3O
reactant | 1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]cyclopropanecarboxamide | 28.5 mmol, 8.2 g, 1 equiv | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C1(CC1)C(=O)N)C | C16H22BNO3
reactant | sodium carbonate | 70.8 mmol, 2M, 35.4 mL, 2.7 equiv | C([O-])([O-])=O.[Na+].[Na+]
reactant | dichloromethane | 1.15 mmol, 838 mg, 0.044 equiv | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 225 mL | CN(C=O)C | C3H7NO
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]palladium (II) chloride | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N2-((1S)-1-{4′-[1-(aminocarbonyl)cyclopropyl]biphenyl-4-yl}-2,2-difluoroethyl)-N1-(1-cyanocyclopropyl)-4-fluoro-L-leucinamide | NC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)[C@@H](C(F)F)N[C@@H](CC(C)(C)F)C(=O)NC1(CC1)C#N | C28H31F3N4O2
